US08193239B2
(i) Methyl 5-bromo-3-(bromomethyl)picolinate
Methyl 5-bromo-3-methylpicolinate (800 mg) in dichloromethane (5 mL) was treated with N-bromosuccinimide (619 mg) and AIBN (14.28 mg). The mixture was stirred and irradiated with a 500 W halogen lamp for 3.5 h. The reaction mixture was cooled and diluted with dichloromethane, and washed with water. The organic layer was dried over magnesium sulfate, filtered and evaporated to afford the sub-titled compound (1036 mg).

reactant | Methyl 5-bromo-3-methylpicolinate | 800 mg | BrC=1C=C(C(=NC1)C(=O)OC)C | C8H8BrNO2
reactant | N-bromosuccinimide | 619 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | AIBN | 14.28 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | Methyl 5-bromo-3-(bromomethyl)picolinate | 1036 mg | BrC=1C=C(C(=NC1)C(=O)OC)CBr | C8H7Br2NO2
